US05358953
A solution of ethyl 3-aminobenzoate (3.3 g, 20 mmol) and 4-chloro-3-nitropyridine (3.17 g, 20 mmol) in ethanol (150 ml) was stirred at room temperature for 16 hours and then cooled in an ice-bath. The resulting precipitate was collected, washed with ice-cold ethanol and dried to give ethyl (3-(3-nitro-4-pyridylamino)benzoate hydrochloride (4.17 g) as a yellow crystalline solid, m.p. 201°-204° C. Found: C,5.2; H,4.4; N,12.9. C14H13N3O4. HCl requires C,51.9; H,4.3; N,13.0%. The mother liquors were evaporated and the residue recrystallised from ethanol to give a further 1.2 g of product.

reactant | ethyl 3-aminobenzoate | 20 mmol, 3.3 g | NC=1C=C(C(=O)OCC)C=CC1 | C9H11NO2
reactant | 4-chloro-3-nitropyridine | 20 mmol, 3.17 g | ClC1=C(C=NC=C1)[N+](=O)[O-] | C5H3ClN2O2
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 3-(3-nitro-4-pyridylamino)benzoate hydrochloride | 4.17 g | Cl.[N+](=O)([O-])C=1C=NC=CC1NC=1C=C(C(=O)O)C=CC1 | InChI=1S/C12H9N3O4.ClH/c16-12(17)8-2-1-3-9(6-8)14-10-4-5-13-7-11(10)15(18)19;/h1-7H,(H,13,14)(H,16,17);1H
